US09085576B2
Step 1: methyl 3-chloro-5-methoxypicolinate
In a 1-L flask, methyl 3-chloro-5-hydroxypicolinate (Afferchem, 25.00 g, 133 mmol) and cesium carbonate (87 g, 267 mmol) were suspended in DMF (200 mL) and iodomethane (41.7 mL, 666 mmol) was added dropwise. A water-cooled condenser was attached, and the reaction vessel was heated in a 55° C. oil bath. After 3 h the reaction was concentrated under reduced pressure. The residue was taken up in 1.2 L of 80% EtOAc-hexane and 500 mL brine. The mixture was filtered through Celite. The filtrate was transferred into a separation funnel. The organic layer was separated, washed with brine (100 mL), dried over MgSO4 and concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with 30% to 40% EtOAc-hexane, affording the title compound (19.1 g) as a tan solid. MS m/z=202 (M+H).

reactant | methyl 3-chloro-5-hydroxypicolinate | 133 mmol, 25.00 g | ClC=1C(=NC=C(C1)O)C(=O)OC | C7H6ClNO3
reactant | cesium carbonate | 267 mmol, 87 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodomethane | 666 mmol, 41.7 mL | IC | CH3I
reactant | water | O | H2O
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | methyl 3-chloro-5-methoxypicolinate | 19.1 g | ClC=1C(=NC=C(C1)OC)C(=O)OC | C8H8ClNO3
